US07838675B2
i) 3-(tert-Butyl-diphenyl-silanyloxy)-azetidine-1-sulfonamide
The subtitle compound was prepared according to the procedure outlined in example 15 step (i) using 3-(tert-butyl-diphenyl-silanyloxy)-azetidine (prepared according to patent WO 2003/072557) (0.93 g), dioxane (20 mL) and sulfamide (0.34 g). Isolation was by filtration to remove excess sulfamide, the filtrate was then reduced in vacuo to give the subtitle compound as a brown oil. Yield: 1.2 g

reactant | 3-(tert-butyl-diphenyl-silanyloxy)-azetidine | 0.93 g | C(C)(C)(C)[Si](OC1CNC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H25NOSi
reactant | sulfamide | 0.34 g | S(=O)(=O)(N)N | H4N2O2S
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3-(tert-Butyl-diphenyl-silanyloxy)-azetidine-1-sulfonamide | C(C)(C)(C)[Si](OC1CN(C1)S(=O)(=O)N)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H26N2O3SSi
